US08895582B2
To a mixture of (S)-tert-butyl 1-(tert-butoxycarbonyloxy)-4,4-difluoro-5-hydroxypentan-2-yl(methyl)carbamate (35.3 g, 0.0956 mol) and lutidine (22.2 mL, 0.191 mol) in DCM (300 mL) was added trifluoromethanesulfonic anhydride (19.3 mL, 0.115 mol) at 0° C. The reaction mixture was stirred at 0° C. for 1 h. LC-MS showed the reaction was complete. The reaction mixture was concentrated down. The resulting residue was dissolved in DMF (100 mL) and sodium azide (62.1 g, 0.956 mol) was added. The reaction mixture was stirred at RT overnight. The reaction solution was partitioned between EtOAc and saturated sodium bicarbonate solution. After separating layers, the aqueous layer was extracted further with EtOAc. The combined organic layers were dried (Na2SO4), filtered, and concentrated, and the resulting residue was purified by silica gel column (hexanes/EtOAc) to give (S)-tert-butyl 5-azido-1-(tert-butoxycarbonyloxy)-4,4-difluoropentan-2-yl(methyl)carbamate (0.0956 mol, 100%). LRMS (M+Na+) m/z 417.4.

reactant | (S)-tert-butyl 1-(tert-butoxycarbonyloxy)-4,4-difluoro-5-hydroxypentan-2-yl(methyl)carbamate | 0.0956 mol, 35.3 g | C(C)(C)(C)OC(=O)OC[C@H](CC(CO)(F)F)N(C(OC(C)(C)C)=O)C | C16H29F2NO6
reactant | lutidine | 0.191 mol, 22.2 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 0.115 mol, 19.3 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium azide | 0.956 mol, 62.1 g | [N-]=[N+]=[N-].[Na+]
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 5-azido-1-(tert-butoxycarbonyloxy)-4,4-difluoropentan-2-yl(methyl)carbamate | 0.0956 mol, 100% | N(=[N+]=[N-])CC(C[C@@H](COC(=O)OC(C)(C)C)N(C(OC(C)(C)C)=O)C)(F)F | C16H28F2N4O5
